US08008250B2
b) (R)-2-Methyl-succinic acid 1-tert-butyl ester
To a solution of 2.55 g (9.89 mmol) of (R)-2-methyl-succinic acid 1-tert-butylester 4-methyl ester in 20 ml of THF/MeOH (1/1) are added at 0° C. 10 ml (20 mmol) of 2 M sodium hydroxide. The mixture is stirred for 4 h at 0° C. and then acidified to pH 2-3 by addition of 1 M HCl. The organic solvents are evaporated. The residual aq. solution is extracted with DCM (3×30 ml), and the combined organic layers are dried over sodium sulfate and concentrated to give the product in the form of a colorless oil.

reactant | (R)-2-methyl-succinic acid 1-tert-butylester 4-methyl ester | 9.89 mmol, 2.55 g | COC(C[C@H](C(=O)OC(C)(C)C)C)=O | C10H18O4
reactant | sodium hydroxide | 20 mmol, 2 M, 10 ml | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | THF MeOH | 20 ml | C1CCOC1.CO
product | (R)-2-Methyl-succinic acid 1-tert-butyl ester | C(C)(C)(C)OC([C@@H](CC(=O)O)C)=O | C9H16O4
